US05624948
A pH of a solution of 5- [2- [4- (2-carboxyethyl)phenyl]ethyl]-1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane sodium salt (5.15 g) in distilled water (100 ml) was adjusted to pH 7 with a 2N-HCl. The resulting white precipitates were collected by filtration, washed with distilled water, and air-dried to give 5- [2- [4- (2-carboxyethyl)phenyl]ethyl]-1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane (4.30 g) as white crystals.

reactant | 5- [2- [4- (2-carboxyethyl)phenyl]ethyl]-1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane sodium salt | 5.15 g | [Na].C(=O)(O)CCC1=CC=C(C=C1)CCN1CCCN(CCC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2
reactant | HCl | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 5- [2- [4- (2-carboxyethyl)phenyl]ethyl]-1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane | 4.30 g | C(=O)(O)CCC1=CC=C(C=C1)CCN1CCCN(CCC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C31H35FN4O2
